data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1F", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)c(F)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2ccc(F)c(F)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)c(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(F)c(F)c1", "products": "O=C1CCN2C[C@H](OCc3ccc(F)c(F)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "CCOc1cc(NN=CCc2ccccc2)ccc1OC.Cl[Zn]Cl", "products": "CCOc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC"}, {"reactants": "CCOc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC", "products": "CCOc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC.[H+]"}, {"reactants": "CCOc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC", "products": "CCOc1ccccc1C(C=[N][Zn-]([Cl])[Cl])C1C=C(OC)C=CC1=N"}, {"reactants": "CCOc1ccccc1C(C=[N][Zn-]([Cl])[Cl])C1C=C(OC)C=CC1=N", "products": "CCOc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)cc1OC"}, {"reactants": "CCOc1cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)cc1OC", "products": "CCOc1cc2c(cc1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "CCOc1cc2c(cc1OC)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "CCOc1cc2c(cc1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "CCOc1cc2c(cc1OC)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "CCOc1cc2c(cc1OC)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "CCOc1cc2c(cc1OC)C(c1ccccc1)C=[NH+]2", "products": "CCOc1cc2[nH]cc(-c3ccccc3)c2cc1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "CCc1cc(NN=CCc2ccccc2)ccc1OC.Cl[Zn]Cl", "products": "CCc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC"}, {"reactants": "CCc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC", "products": "CCc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC.[H+]"}, {"reactants": "CCc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC", "products": "CCc1ccccc1C(C=[N][Zn-]([Cl])[Cl])C1C=C(OC)C=CC1=N"}, {"reactants": "CCc1ccccc1C(C=[N][Zn-]([Cl])[Cl])C1C=C(OC)C=CC1=N", "products": "CCc1c(OC)ccc(N)c1C(C=[N][Zn-]([Cl])[Cl])c1ccccc1"}, {"reactants": "CCc1c(OC)ccc(N)c1C(C=[N][Zn-]([Cl])[Cl])c1ccccc1", "products": "CCc1c(OC)ccc2c1C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "CCc1c(OC)ccc2c1C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "CCc1c(OC)ccc2c1C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "CCc1c(OC)ccc2c1C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "CCc1c(OC)ccc2c1C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "CCc1c(OC)ccc2c1C(c1ccccc1)C=[NH+]2", "products": "CCc1c(OC)ccc2[nH]cc(-c3ccccc3)c12.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC(C)c1cccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "CC(C)c1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "CC(C)c1cccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "CC(C)c1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "CC(C)c1cccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "C[C+]1C2(c3cccc(C(C)C)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cccc(C(C)C)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cccc(C(C)C)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C(C)C)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cccc(C(C)C)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cccc(C(C)C)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cccc(C(C)C)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cccc(C(C)C)c2)CCC(C(=O)O)C1(C)C", "products": "CC(C)c1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "CC(C)c1cccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "CC(C)c1cccc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cccc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "Cc1cccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "Cc1cccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "Cc1cccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "Cc1cccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "Cc1cccc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1Br.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1Br.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CCC1Br", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2Br.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CCC2Br", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CCC2Br)C(=O)CC41c2ccccc2N(C)C31"}]}
